US09263682B2
Add 14.31 g (44.0 mmol) of 3.6-dibromo carbazole (A-1), 25.01 g (176.1 mmol) of 5-methyl-2-thiophen boronic acid, and 1.30 g of tetrakis(triphenylphosphine) palladium to a solvent mixture of 180 ml of toluene and 60 ml of ethanol; add an aqueous solution in which 37.3 g of sodium carbonate is dissolved in 90 ml of distilled water to the liquid mixture; reflux the mixture for 15 hours while heating in nitrogen atmosphere; next, filter the resultant with celite with heat to remove insoluble matters; separate the organic layer; distill away the solvent under a reduced pressure; subsequent to water-washing of the residual matter, dry the resultant to obtain a yellow brown solid; refine the resultant with silica gel column chromatography using a solvent mixture of methylene chloride and hexane as an eluting solution to obtain 12.25 g of 3,6-bis(5-methylthiophene-2-yl)carbazole (A-2); mix 8.07 g (22.4 mmol) of the thus obtained 3,6-bis(5-methylthiophene-2-yl)carbazole, 21.00 g (89.7 mmol) of 4-iodine anisole, 0.71 g of copper powder, and 12.40 g of potassium carbonate; reflux the mixture for six hours while heating in nitrogen atmosphere followed by cooling-down to 100° C.; next, add 80 ml of toluene to the resultant; filter the resultant with celite with heat to remove insoluble matters; distill away the solvent under a reduced pressure; dissolve the residual in methylene chloride followed by water-washing; dry the resultant to obtain brown liquid; next, refine the resultant with silica gel column chromatography using a solvent mixture of methylene chloride and hexane as an eluting solution to obtain 4.39 g of 3,6-bis(5-methylthiophene-2-yl)-9-(4-methoxyphenyl)carbazole (B-2); dissolve 3.73 g (8.0 mmol) of the thus obtained 3,6-bis(5-methylthiophene-2-yl)-9-(4-methoxyphenyl)carbazole in 30 ml of methylene chloride; drip 8 ml of a methylene chloride solution of 1M boron tribromide to the resultant solution at −10° C. followed by stirring at room temperature; subsequent to water-washing, dry the resultant and thereafter remove the solvent to obtain a gray solid; furthermore, refine the resultant with silica gel column chromatography using a solvent mixture of methylene chloride and hexane as an eluting solution to obtain 3.47 g of 3,6-bis(5-methylthiophene-2-yl)-9-(4-hydroxyphenyl)carbazole (B-3); dissolve 1.81 g (4.0 mmol) of the thus obtained 3,6-bis(5-methylthiophene-2-yl)-9-(4-hydroxyphenyl)carbazole and 4.35 g (16.0 mmol) of 1,8-dibromooctane in 20 ml of methylethyl ketone; add 0.83 g of potassium carbonate to the solution; reflux the solution for seven hours while heating; next, filter the resultant to remove insoluble matters; distill away the solvent under a reduced pressure; dissolve the residual in methylene chloride followed by water-washing; dry the resultant and thereafter remove the solvent to obtain pale yellow liquid; next, refine the resultant with silica gel column chromatography using a solvent mixture of methylene chloride and hexane as an eluting solution to obtain 1.83 g of 3,6-bis(5-methylthiophene-2-yl)-9-[4-(8-bromooctyloxy)phenyl]carbazole; dissolve 1.50 g (2.3 mmol) of the thus obtained 3,6-bis(5-methylthiophene-2-yl)-9-[4-(8-bromooctyloxy)phenyl]carbazole in a solvent mixture of 20 ml of tetrahydrofuran (THF) and 20 ml of ethanol; add 0.40 g (3.5 mmol) of potassium thioacetate to the solution in nitrogen atmosphere; reflux the solution for five hours while heating followed by cooling down to room temperature; pour water to the solution followed by extraction with methylene chloride; subsequent to water-washing, dry the resultant and thereafter remove the solvent to obtain a pale yellow white solid; furthermore, refine the resultant with silica gel column chromatography using a solvent mixture of methylene chloride and hexane as an eluting solution to obtain 1.22 g of 8-{4-[3,6-bis(5-methylthiophene-2-yl)-9-yl]phenoxy}octylester (C-3); dissolve 1.02 g (1.6 mmol) of the thus obtained 8-{4-[3,6-bis(5-methylthiophene-2-yl)-9-yl]phenoxy}octylester in a solvent mixture of 30 ml of tetrahydrofuran (THF) and 10 ml of ethanol in nitrogen atmosphere; add 0.5 ml of NaOH aqueous solution having 50% by weight to the solution followed by stirring at room temperature for one hour; pour water to the solution followed by extraction with chloroform; subsequent to water-washing, dry the resultant and thereafter distill away the solvent to obtain a coarse product; next, refine the resultant with silica gel column chromatography using a solvent mixture of chloroform and hexane as an eluting solution to obtain 0.86 g of 8-{4-[3,6-bis(5-methylthiophene-2-yl)carbazole-9-yl]phenoxy}octane-1-thiol (C-4) (hereinafter referred to as carbazole derivative 1) represented by the following chemical structure 7.

reactant | 3,6-bis(5-methylthiophene-2-yl)-9-(4-hydroxyphenyl)carbazole | CC1=CC=C(S1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C=1SC(=CC1)C)C1=CC=C(C=C1)O | C28H21NOS2
reactant | 1,8-dibromooctane | 16.0 mmol, 4.35 g | BrCCCCCCCCBr | C8H16Br2
reactant | potassium carbonate | 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylethyl ketone | 20 ml | CC(=O)CC | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 3,6-bis(5-methylthiophene-2-yl)-9-[4-(8-bromooctyloxy)phenyl]carbazole | 1.83 g | CC1=CC=C(S1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C=1SC(=CC1)C)C1=CC=C(C=C1)OCCCCCCCCBr | C36H36BrNOS2
